* Z:\celera\projects\Simplis\playbrian\verif301\buffer\verification\sim_buffer_unity.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'

.node_map SIMPV 14
.node_map ok_vbuffer 16
.node_map OUT 12
.node_map enable_vbuffer 15
.node_map IN 13
.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ POP_SHOWDATA
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
*.pop TRIG_GATE={{TRIG_GATE}} TRIG_COND=0_TO_1 MAX_PERIOD=1u CONVERGENCE=1p CYCLES_BEFORE_LAUNCH=5 TD_RUN_AFTER_POP_FAILS=-1
.tran 300u 0
.globalvar REF=1.0
.globalvar VIN=5
.globalvar tdext_khz=1000

X$buffer_unity 15 14 13 16 12 buffer_unity

** From Z:\celera\projects\Simplis\playbrian\verif301\buffer\design\buffer_unity.sxcmp
.subckt buffer_unity 23 25 24 21 26
*#hierarchy
.node_map SIMPV 25
.node_map ok_vbuffer 21
.node_map OUT 26
.node_map enable_vbuffer 23
.node_map ok_vbuffer_delay 22
.node_map IN 24
X$BUFok 21 dftprobeModel1 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='BUFok' dftprobe_description='BUF_ok_Delay' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$BUFok_delay 22 dftprobeModel1 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='BUFok_delay' dftprobe_description='OSC_ok_Delay' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$get_ok_driver_delay 23 21 22 VESPAdftpulse
X$IXbuf 25 21 24 26 23 20 vbuffer vars: vbuffer_accuracy='no' vbuffer_datasheet_name='text' vbuffer_datasheet_description='text' vbuffer_type='p' vbuffer_inputbuffer='no' vbuffer_drive='internal' vbuffer_gndsense='no' vbuffer_dft='no' vbuffer_gain=1 vbuffer_feedbackimpedance=1k vbuffer_vmax=6
X$U11 23 pinprobe vars: pinprobe_description='tbd pinprobe_mode='input' pinprobe_input='service' pinprobe_output='tbd'
X$U15 25 pinprobe vars: pinprobe_description='tbd pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U19 24 pinprobe vars: pinprobe_description='tbd pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U23 21 pinprobe vars: pinprobe_description='tbd pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='tbd'
X$U28 26 pinprobe vars: pinprobe_description='tbd pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad'
.ends buffer_unity

** From Z:\celera\simplis\LIB\VESPA\VESPAdftpulse.sxcmp
.subckt VESPAdftpulse 7 8 9
*#hierarchy
.node_map start 7
.node_map stop 8
.node_map pulse 9
X$U11 7 pinprobe vars: pinprobe_description='DFT_timer_start_input'
X$U15 8 6 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U17 8 pinprobe vars: pinprobe_description='DFT_timer_stop_input'
X$U52 7 4 6 nand2 vars: logicgate_type='nand2' logicgate_vmax=6
X$U53 4 5 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U55 9 5 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U8 9 pinprobe vars: pinprobe_description='DFT_Timer_pulse'
.ends VESPAdftpulse

** From Z:\celera\projects\Simplis\playbrian\verif301\buffer\verification\FORCE_buffer_unity.sxcmp


.end
